US08633173B2
N-[3-({2-[2-Methoxy-4-(4-methyl-piperazin-1-yl)-phenylamino]-[1,2,4]triazolo[1,5-a]pyridin-8-ylamino}-methyl)-pyridin-2-yl]-N-methyl-methanesulfonamide was prepared from N-{3-[(2-chloro-[1,2,4]triazolo[1,5-a]pyridin-8-ylamino)-methyl]-pyridin-2-yl}-N-methyl-methanesulfonamide (75.0 mg, 0.204 mmol) and 2-methoxy-4-(4-methyl-piperazin-1-yl)-phenylamine (50.0 mg, 0.226 mmol) with 2,2′-bis-dicyclohexylphosphanyl-biphenyl (25.0 mg, 0.0457 mmol) as the ligand in a manner analogous to Example 2d. Product isolated as a brown foam (0.049 g, 43%). 1H NMR (400 MHz, CDCl3, δ, ppm): 8.40 (dd, J=4.7, 1.6 Hz, 1H), 8.19 (d, J=8.6 Hz, 1H), 7.85 (dd, J=7.7, 1.6 Hz, 1H), 7.82 (d, J=6.7 HZ, 1H), 7.29-7.25 (m, 1H), 7.17 (s, 1H), 6.65-6.57 (m, 3H), 6.28 (d, J=7.7 Hz, 1H), 5.29 (t, J=6.1 Hz, 1H), 4.76 (d, J=6.3 Hz, 2H), 3.89 (s, 3H), 3.32 (s, 3H), 3.18-3.13 (m, 4H), 3.09 (s, 3H), 2.63-2.58 (m, 4H), 2.37 (s, 3H). MS=552 (MH)+.

reactant | N-{3-[(2-chloro-[1,2,4]triazolo[1,5-a]pyridin-8-ylamino)-methyl]-pyridin-2-yl}-N-methyl-methanesulfonamide | 0.204 mmol, 75.0 mg | ClC1=NN2C(C(=CC=C2)NCC=2C(=NC=CC2)N(S(=O)(=O)C)C)=N1 | C14H15ClN6O2S
reactant | 2-methoxy-4-(4-methyl-piperazin-1-yl)-phenylamine | 0.226 mmol, 50.0 mg | COC1=C(C=CC(=C1)N1CCN(CC1)C)N | C12H19N3O
reactant | 2,2′-bis-dicyclohexylphosphanyl-biphenyl | 0.0457 mmol, 25.0 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1)P(C1CCCCC1)C1CCCCC1)C1CCCCC1 | C36H52P2
product | N-[3-({2-[2-Methoxy-4-(4-methyl-piperazin-1-yl)-phenylamino]-[1,2,4]triazolo[1,5-a]pyridin-8-ylamino}-methyl)-pyridin-2-yl]-N-methyl-methanesulfonamide | COC1=C(C=CC(=C1)N1CCN(CC1)C)NC1=NN2C(C(=CC=C2)NCC=2C(=NC=CC2)N(S(=O)(=O)C)C)=N1 | C26H33N9O3S
